US07223788B2
(R)-2,2,2-Trifluoro-N-methyl-N-[1-(4-nitrophenyl)pyrrolidin-3-yl]acetamide
Trifluoroacetic anhydride (0.5 ml) was added dropwise to a solution of (R)-methyl-[1-(4-nitrophenyl)pyrrolidin-3-yl]amine (0.48 g) in pyridine (2 ml). After 3 hours, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with citric acid solution, dried over magnesium sulfate and concentrated. This resulted in the product with the molecular weight of 317.27 (C13H14F3N3O3); MS (ESI): 318 (M+H+).

reactant | Trifluoroacetic anhydride | 0.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (R)-methyl-[1-(4-nitrophenyl)pyrrolidin-3-yl]amine | 0.48 g | CN[C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H15N3O2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | (R)-2,2,2-Trifluoro-N-methyl-N-[1-(4-nitrophenyl)pyrrolidin-3-yl]acetamide | FC(C(=O)N([C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C)(F)F | C13H14F3N3O3
